US08487108B2
To a stirred suspension of the HCl salt of methyl (S)-4-(3-chloro-2-fluorophenyl)-4-hydroxy-4-((R)-piperidin-3-yl)butylcarbamate (31.6 mg, 0.08 mmol) and (S)-4-nitrophenyl 2-(t-butoxycarbonylamino)-3-cyclohexylpropylcarbamate (45 mg, 0.105 mmol) in MeCN (1 mL) and CH2Cl2 (1 mL) was added DIEA (80 μL, 0.45 mmol). The mixture was stirred at rt for 3 d, diluted with ether (90 mL), washed with 5% aq HCl (20 mL), IM aq NaOH (20 mL) and brine (20 mL), and dried over MgSO4. Removal of the solvent left a white solid (61 mg) which was applied to a 2-g silica SPE cartridge. The cartridge was eluted sequentially with 0, 25, 50, 75 and 100% EtOAc in hexanes (15 mL of each) to afford five fractions. Fractions 4 and 5 were pooled and concentrated to afford methyl (S)-4-((R)-1-((S)-2-(t-butoxycarbonylamino)-3-cyclohexylpropylcarbamoyl)piperidin-3-yl)-4-(3-chloro-2-fluorophenyl)-4-hydroxybutylcarbamate (35 mg) as an oil.

reactant | HCl | Cl | ClH
reactant | methyl (S)-4-(3-chloro-2-fluorophenyl)-4-hydroxy-4-((R)-piperidin-3-yl)butylcarbamate | 0.08 mmol, 31.6 mg | ClC=1C(=C(C=CC1)[C@](CCCNC(OC)=O)([C@H]1CNCCC1)O)F | C17H24ClFN2O3
reactant | (S)-4-nitrophenyl 2-(t-butoxycarbonylamino)-3-cyclohexylpropylcarbamate | 0.105 mmol, 45 mg | C(C)(C)(C)OC(=O)N[C@H](CNC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1CCCCC1 | C21H31N3O6
reactant | DIEA | 0.45 mmol, 80 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeCN | 1 mL | CC#N | C2H3N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 90 mL | CCOCC | C4H10O
product | methyl (S)-4-((R)-1-((S)-2-(t-butoxycarbonylamino)-3-cyclohexylpropylcarbamoyl)piperidin-3-yl)-4-(3-chloro-2-fluorophenyl)-4-hydroxybutylcarbamate | 35 mg | C(C)(C)(C)OC(=O)N[C@H](CNC(=O)N1C[C@@H](CCC1)[C@](CCCNC(OC)=O)(O)C1=C(C(=CC=C1)Cl)F)CC1CCCCC1 | C32H50ClFN4O6
